* D:\Github\um3Supply\Hardware\Simulations\um3Supply.asc
Q1 N001 N007 N009 0 NPN
Q2 N001 N009 N012 0 NPN
R1 N009 N012 470
XU2 N008 N004 N002 0 N005 ADA4891
R2 N006 N005 220
V1 N001 0 24
V2 N002 0 5
R4 N004 N011 1k
R5 N011 0 1k
V3 N008 0 .5
I1 N018 0 PULSE(0 2 .1 1u 1u 1m)
R3 N012 N011 .1
XU1 N014 0 N017 N011 N017 LT6106
R6 N012 N017 100
R7 N014 0 1000
XU3 N016 N014 N013 0 N015 ADA4891
Q4 0 N010 N006 0 PNP
R8 N015 N010 220
V4 N013 0 5
V5 N016 0 0.8
L1 N011 N018 1n
C1 N011 0 10µ
Q3 N006 N003 N007 0 NPN
R9 N003 N002 220
C2 N005 N004 1p
.model NPN NPN
.model PNP PNP
.lib C:\Users\justRandom\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 .5 0
.lib ADI.lib
.lib LTC7.lib
.backanno
.end
